US06562828B1
N,N′-Di-tert-Butoxycarbonyl-7-[1-(2-hydroxyethyl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine
To a solution of 4-[2-(N,N′-di-tert-butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidine-1-acetic acid ethyl ester (155 mg) in a mixture of tetrahydrofuran (2 ml) and methanol (0.008 ml) was added lithium borohydride (11 mg), and the mixture was stirred at room temperature for 3 hours. After completion of the reaction, water was added and the mixture was extracted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (hexane:acetone=3:1) and dried under reduced pressure to give the title compound (65 mg).

reactant | 4-[2-(N,N′-di-tert-butoxycarbonylamidino)-1,2,3,4-tetrahydroisoquinolin-7-yloxymethyl]piperidine-1-acetic acid ethyl ester | 155 mg | C(C)OC(CN1CCC(CC1)COC1=CC=C2CCN(CC2=C1)C(NC(=O)OC(C)(C)C)=NC(=O)OC(C)(C)C)=O | C30H46N4O7
reactant | lithium borohydride | 11 mg | [BH4-].[Li+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 0.008 ml | CO | CH4O
product | N,N′-Di-tert-Butoxycarbonyl-7-[1-(2-hydroxyethyl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxamidine | 65 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)CCO | C28H44N4O6
